US08110588B2
5-(2-Fluoro-4-trifluoromethyl-phenyl)-3-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine (16)
To an ice-cooled solution of 1-azido-4-methoxy-benzene (0.450 g, 3.0171 mmol) and commercial 2-fluoro-4-(trifluoromethyl)phenyl acetonitrile (0.736 g, 3.6205 mmol) in absolute ethanol (10 ml) and under a nitrogen flow, sodium methoxide (0.2445 g, 4.5257 mmol) in absolute ethanol (5 ml) is added drop-wise and the resulting mixture is allowed to attain room temperature spontaneously overnight. The reaction mixture is evaporated and the solid residue is dissolved in dichloromethane (80 ml) and the organic solution is washed with water (60 ml), brine (60 ml), dried over MgSO4, filtered and evaporated (˜1 g). This crude residue is purified by crystallization from a mixture of dichloromethane and petroleum ether, to afford the title compound as a yellow solid (0.570 g, 53% yield). M.p. 164.6-165.5° C. LC-ESI-HRMS of [M+H]+ shows 353.1028 Da. Calc. 353.102548 Da, dev. 0.7 ppm.

reactant | 1-azido-4-methoxy-benzene | 3.0171 mmol, 0.450 g | N(=[N+]=[N-])C1=CC=C(C=C1)OC | C7H7N3O
reactant | 2-fluoro-4-(trifluoromethyl)phenyl acetonitrile | 3.6205 mmol, 0.736 g | FC1=C(C=CC(=C1)C(F)(F)F)CC#N | C9H5F4N
reactant | sodium methoxide | 4.5257 mmol, 0.2445 g | C[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(2-Fluoro-4-trifluoromethyl-phenyl)-3-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.570 g, 53% yield | FC1=C(C=CC(=C1)C(F)(F)F)C1=C(N(N=N1)C1=CC=C(C=C1)OC)N | C16H12F4N4O
